US04605664
In a nitrogen atmosphere, (+)-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetamide (19.8 g., 0.0582 mole) and diethyl oxalate (9.14 g., 0.0626 mole) are dissolved in dimethylformamide (100 ml.) and stirred in an ice bath. Potassium tert. butoxide (15.2 g. 0.136 mole) is added in two portions at a 10 minute interval. The reaction mixture is stirred at 25° C. for 18 hours, poured into water (600 ml) acidified with hydrochloric acid, extracted with ether, washed with water and brine and dried over MgSO4. Evaporation of the ether at reduced pressure gives (+)3-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-4-hydroxy-1H-pyrrole-2,5-dione as the hemietherate in the form of a foam. Upon drying at reduced pressure, the analysis of the hemietherate is as follows:

reactant | (+)-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetamide | 0.0582 mole, 19.8 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)CC(=O)N | C17H19Cl2NO2
reactant | diethyl oxalate | 0.0626 mole, 9.14 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Potassium tert. butoxide | 0.136 mole, 15.2 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | (+)3-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-4-hydroxy-1H-pyrrole-2,5-dione | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)C=1C(NC(C1O)=O)=O | C19H17Cl2NO4
